US09079889B2
Method 1 was followed using 6-bromo-5-fluoropicolinic acid (1.0 equiv.) and 2-fluoro-5-propoxyphenylboronic acid (1.5 equiv.) and Pd(dppf)Cl2-DCM (0.05 equiv.) to give 5-fluoro-6-(2-fluoro-5-propoxyphenyl)picolinic acid. LC/MS=294.2 (M+H), Rt=0.95 min.

reactant | 6-bromo-5-fluoropicolinic acid | 1.0 equiv. | BrC1=C(C=CC(=N1)C(=O)O)F | C6H3BrFNO2
reactant | 2-fluoro-5-propoxyphenylboronic acid | 1.5 equiv. | FC1=C(C=C(C=C1)OCCC)B(O)O | C9H12BFO3
catalyst | Pd(dppf)Cl2 DCM | 0.05 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 5-fluoro-6-(2-fluoro-5-propoxyphenyl)picolinic acid | FC=1C=CC(=NC1C1=C(C=CC(=C1)OCCC)F)C(=O)O | C15H13F2NO3
